US05656642
24 ml of a 1N solution of boron tribromide in dichloromethane was dropwise added, at -40° C., to a solution of 1.0 g of 4-[N-methyl-N-(2-phenylethyl)amino]-1-[3-methoxy-4-(1,2,4-triazol-1-yl)benzoyl]piperidine in 20 ml of chloroform. The mixture was stirred overnight at that temperature and then returned to room temperature. The mixture was cooled to -30° C. and 10 ml of methanol was dropwise added thereto. The mixture was poured into ice water. The resulting mixture was made basic with a 25% aqueous sodium hydroxide solution and stirred for a while. The organic layer was separated, water-washed, and concentrated under reduced pressure. The residue was purified by a silica gel column chromatography (eluant:methylene chloride/methanol=50/1 to 9/1) and then converted into a hydrochloride to obtain 0.42 g of 4-[N-methyl-N-(2-phenylethyl)amino]-1-[3-hydroxy-4-(1,2,4-triazol-1-yl)benzoyl]piperidine hydrochloride as a white amorphous.

reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | 4-[N-methyl-N-(2-phenylethyl)amino]-1-[3-methoxy-4-(1,2,4-triazol-1-yl)benzoyl]piperidine | 1.0 g | CN(CCC1=CC=CC=C1)C1CCN(CC1)C(C1=CC(=C(C=C1)N1N=CN=C1)OC)=O | C24H29N5O2
reactant | methanol | 10 ml | CO | CH4O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-[N-methyl-N-(2-phenylethyl)amino]-1-[3-hydroxy-4-(1,2,4-triazol-1-yl)benzoyl]piperidine hydrochloride | 0.42 g | Cl.CN(CCC1=CC=CC=C1)C1CCN(CC1)C(C1=CC(=C(C=C1)N1N=CN=C1)O)=O | InChI=1S/C23H27N5O2.ClH/c1-26(12-9-18-5-3-2-4-6-18)20-10-13-27(14-11-20)23(30)19-7-8-21(22(29)15-19)28-17-24-16-25-28;/h2-8,15-17,20,29H,9-14H2,1H3;1H
